US09085576B2
A solution of ethyl 3-amino-6-chlorofuro[3,2-b]pyridine-2-carboxylate (0.81 g, 3.35 mmol) in hydrochloric acid (5.0 M in water, 50.0 mL, 3.35 mmol) was heated to reflux for 4 h and cooled to RT. The pH was adjusted to 7 with saturated NaHCO3. The aqueous phase was extracted with EtOAc (3×) and the combined organic extracts were dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography on silica gel eluting with a gradient of 0% to 100% EtOAc in DCM gave 6-chlorofuro[3,2-b]pyridin-3(2H)-one (0.12 g, 0.68 mmol, 20% yield) as a yellow solid. LC/MS (ESI+) m/z=170.0 (M+H). Calculated for C7H4ClNO2 169.0.

reactant | ethyl 3-amino-6-chlorofuro[3,2-b]pyridine-2-carboxylate | 3.35 mmol, 0.81 g | NC1=C(OC=2C1=NC=C(C2)Cl)C(=O)OCC | C10H9ClN2O3
reactant | hydrochloric acid | 3.35 mmol, 5.0 M, 50.0 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 6-chlorofuro[3,2-b]pyridin-3(2H)-one | 0.68 mmol, 0.12 g, 20% yield | ClC=1C=C2C(=NC1)C(CO2)=O | C7H4ClNO2
